US07786108B2
Step 4. Preparation of 4-Isopropoxycarbonylamino-indan-5-carboxylic acid methyl ester
Add isopropyl chloroformate (2.22 mL, 2.22 mmol, 1.0 M in toluene) dropwise to a solution of 4-amino-indan-5-carboxylic acid methyl ester (425 mg, 2.22 mmol) and pyridine (0.44 mL, 5.5 mmol) in dichloromethane (4.4 mL) at 0° C. under an atmosphere of nitrogen and stir at room temperature for 24 h. Add 1M HCl and separate the layers. Extract the aqueous layer with dichloromethane. Dry the organic layers over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure, to afford the title compound (576 mg, 93%). 1H NMR (MeOD) δ 1.37 (d, J=6.5 Hz, 6H), 2.16 (quintuplet, J=7.7 Hz, 2H), 2.97 (t, J=7.3 Hz, 2H), 3.05 (t, J=7.3 Hz, 2H), 3.94 (s, 3H), 4.97 (m, 1H), 7.22 (d, J=8.1 Hz, 1H), 7.80 (d, J=8.1 Hz, 1H). MS (ES+): 278 (M+H).

reactant | isopropyl chloroformate | 2.22 mmol, 1.0 M, 2.22 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 4-amino-indan-5-carboxylic acid methyl ester | 2.22 mmol, 425 mg | COC(=O)C=1C(=C2CCCC2=CC1)N | C11H13NO2
reactant | pyridine | 5.5 mmol, 0.44 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1M | Cl | ClH
solvent | dichloromethane | 4.4 mL | ClCCl | CH2Cl2
product | 4-Isopropoxycarbonylamino-indan-5-carboxylic acid methyl ester | 576 mg, 93% | COC(=O)C=1C(=C2CCCC2=CC1)NC(=O)OC(C)C | C15H19NO4
